US08067445B2
Step 2: (2′-{[Ethyl-(2-methoxy-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid
(2′-{[Ethyl-(2-methoxy-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.135 g, 0.31 mmol) in THF (2 mL) was treated with 1N aqueous LiOH (2 mL) for 2 hours at room temperature. The mixture was acidified with 1N aqueous HCl and extracted three times with EtOAc. The combined organic layers were dried and concentrated, and the residue was purified by preparative HPLC to give the title compound. M+H is 440.

reactant | (2′-{[Ethyl-(2-methoxy-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.31 mmol, 0.135 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(COC)=O)CC)=O | C23H26F3NO5
reactant | LiOH | 1N, 2 mL | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (2′-{[Ethyl-(2-methoxy-acetyl)-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | C(C)N(C(COC)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O | C22H24F3NO5
